US04248620
1-(2-fluorophenyl)-3-cyclohexyl-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine-2,4-dione;
Similarly the reverse 1-position-3-position isomers of each of the above prepared compounds are prepared by using the corresponding position isomer of formula A as the starting material. For example by using 1-methyl-3-(2-fluorophenyl)-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine-2,4-dione in place of 1-(2-fluorophenyl-3-methyl-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine the following compounds (as well as the other position isomers of the above products) are prepared:

reactant | 1-methyl-3-(2-fluorophenyl)-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine-2,4-dione | CN1C(N(C(C1=NC(C(C(Cl)(Cl)Cl)Cl)Cl)=O)C1=C(C=CC=C1)F)=O | C13H9Cl5FN3O2
reactant | 2-fluorophenyl-3-methyl-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine | FC1=C(C=CC=C1)N1CN(CC1=NC(C(C(Cl)(Cl)Cl)Cl)Cl)C | C13H13Cl5FN3
product | 1-(2-fluorophenyl)-3-cyclohexyl-5-(1,2,3,3,3-pentachloropropyl)imino-1,3-diazolidine-2,4-dione | FC1=C(C=CC=C1)N1C(N(C(C1=NC(C(C(Cl)(Cl)Cl)Cl)Cl)=O)C1CCCCC1)=O | C18H17Cl5FN3O2
